US04377580
A mixture of diethyl [(6-amino-4-quinazolinylamino)methylene]propanedioate (2.5 g), pyridine (1.2 g) and dichloromethane (55 ml) was stirred under ice-cooling. To the reaction mixture was added dropwise isobutyryl chloride (1.06 g). The reaction mixture was stirred under ice-cooling for 30 minutes and at ambient temperature for 20 minutes. After ice-water was added to the reaction mixture, the resultant mixture was stirred and extracted with chloroform. Insoluble materials were removed by filtration from the extracts. The extracts were washed three times with water and with aqueous solution saturated with sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The resultant residue was purified by a column chromatography using silica gel (developing solvent: chloroform) and crystallized from a mixture of chloroform and hexane to give crystalline diethyl [(6-isobutyramido-4-quinazolinylamino)methylene]propanedioate (1.28 g). Crystals (0.67 g) of the same compound were recovered from the mother liquor by substantially the same crystallization as mentioned above.

reactant | diethyl [(6-amino-4-quinazolinylamino)methylene]propanedioate | 2.5 g | NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C16H18N4O4
reactant | pyridine | 1.2 g | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 1.06 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
product | diethyl [(6-isobutyramido-4-quinazolinylamino)methylene]propanedioate | 1.28 g | C(C(C)C)(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C20H24N4O5
